US07109192B2
1c) 4-amino-2-naphthalen-1-ylmethyl-5-nitro-2H-pyridazin-3-one
9.4 g (31.6 mmol) of 4-hydroxy-2-naphthalen-1-ylmethyl-5-nitro-2H-pyridazin-3-one were combined with 150 ml saturated methanolic ammonia solution and heated to 130° C. for 24 hours in a Roth bomb. The mixture was concentrated down to a volume of about 40 ml using the rotary evaporator, the product precipitated was suction filtered and recrystallised from tetrahydrofuran.

reactant | 4-hydroxy-2-naphthalen-1-ylmethyl-5-nitro-2H-pyridazin-3-one | 31.6 mmol, 9.4 g | OC=1C(N(N=CC1[N+](=O)[O-])CC1=CC=CC2=CC=CC=C12)=O | C15H11N3O4
reactant | ammonia | 150 ml | N | H3N
product | 4-amino-2-naphthalen-1-ylmethyl-5-nitro-2H-pyridazin-3-one | NC=1C(N(N=CC1[N+](=O)[O-])CC1=CC=CC2=CC=CC=C12)=O | C15H12N4O3
